US06350761B1
To 4-(N′-(t-butoxycarbonyl)piperidin-4-yl)oxy-3-trifluoromethyl-N-(3-(6-((4-methoxybenzyl)oxy)-3-cyanophenyl)prop-2-en-1-yl)benzenamine (1.39 g) in 20 mL of CH2Cl2 was added ethyl 4-chloro-4-oxobutyrate (0.43 g) and pyridine (1 mL) at 0° C. The resulting solution was allowed to warm to ambient temperature for 30 minutes and then diluted with 100 mL CH2Cl2. The organic layer was washed with saturated copper sulfate, dried and concentrated to afford 4-(N′-(t-butoxycarbonyl)piperidin-4-yl)oxy-3-trifluoromethyl-N-(2-(ethoxycarbonyl)ethylcarbonyl)-N-(3-(6-((4-methoxybenzyl)oxy)-3-cyanophenyi)prop-2-en-1-yl)benzenamine as a blue solid.

reactant | 4-(N′-(t-butoxycarbonyl)piperidin-4-yl)oxy-3-trifluoromethyl-N-(3-(6-((4-methoxybenzyl)oxy)-3-cyanophenyl)prop-2-en-1-yl)benzenamine | 1.39 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1)NCC=CC1=CC(=CC=C1OCC1=CC=C(C=C1)OC)C#N)C(F)(F)F | C35H38F3N3O5
reactant | ethyl 4-chloro-4-oxobutyrate | 0.43 g | ClC(CCC(=O)OCC)=O | C6H9ClO3
reactant | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-(N′-(t-butoxycarbonyl)piperidin-4-yl)oxy-3-trifluoromethyl-N-(2-(ethoxycarbonyl)ethylcarbonyl)-N-(3-(6-((4-methoxybenzyl)oxy)-3-cyanophenyi)prop-2-en-1-yl)benzenamine | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1)N(CC=CC1=CC(=CC=C1OCC1=CC=C(C=C1)OC)C#N)C(=O)CCC(=O)OCC)C(F)(F)F | C41H46F3N3O8
